US07091214B2
A mixture of 5-bromo-N4-(2-methylpropyl)quinoline-3,4-diamine (1.0 g, 3.4 mmol), triethyl orthoformate (0.9 mL, 5 mmol), and pyridine hydrochloride (117 mg, 1.0 mmol) in acetonitrile (17 mL) was heated at reflux overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by HPFC (eluting with chloroform:CMA in a gradient from 100:0 to 70:30) to provide 9-bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline as a dark oil.

reactant | 5-bromo-N4-(2-methylpropyl)quinoline-3,4-diamine | 3.4 mmol, 1.0 g | BrC1=C2C(=C(C=NC2=CC=C1)N)NCC(C)C | C13H16BrN3
reactant | triethyl orthoformate | 5 mmol, 0.9 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | pyridine hydrochloride | 1.0 mmol, 117 mg | Cl.N1=CC=CC=C1
solvent | acetonitrile | 17 mL | C(C)#N | C2H3N
product | 9-bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | BrC=1C=2C3=C(C=NC2C=CC1)N=CN3CC(C)C | C14H14BrN3
